data/oMe_Silver.jsonl
{"reaction_id": "NR-141_1-C(F)(F)F_2-C(C)CC","name": "Meerwein-Ponndorf-Verley Reduction","level": "medium","reactants_smiles": ["C(=O)(C(F)(F)F)(C(C)CC)"],"products_smiles": ["C(O)(C(F)(F)F)(C(C)CC)"],"conditions": "Al(Oi-Pr)3, i-PrOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Al-](OC(C)C)(OC(C)C)OC(C)C)(C(F)(F)F)(C(C)CC)","rationale": "Aluminum acts as a strong Lewis acid, coordinating to the carbonyl oxygen and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic hydride transfer."},{"step": 2,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(O[Al](OC(C)C)OC(C)C)(C(F)(F)F)(C(C)CC)","rationale": "A six-membered cyclic transition state allows concerted hydride transfer from the α-carbon of isopropoxide to the activated carbonyl carbon, favored by chelation and minimal ring strain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(C(F)(F)F)(C(C)CC)","rationale": "Proton transfer from the coordinated alkoxide to the oxygen regenerates the aluminum isopropoxide catalyst and releases the neutral alcohol product."}],"description": "The carbonyl coordinates to aluminum isopropoxide, increasing electrophilicity. A six-membered cyclic transition state enables hydride transfer from isopropoxide to the carbonyl carbon, reducing it to an alcohol. Proton transfer regenerates the catalyst and releases the product."}
{"reaction_id": "NR-126_1-c1ccc(Br)cc1","name": "Kornblum Oxidation","level": "medium","reactants_smiles": ["C(c1ccc(Br)cc1)Cl","C[S+]([O-])C"],"products_smiles": ["C(c1ccc(Br)cc1)=O"],"conditions": "CCN(CC)CC","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccc(Br)cc1)O[S+](C)C","rationale": "The sulfoxide oxygen is nucleophilic due to its lone pairs and polarization; it attacks the electrophilic carbon bearing the good leaving group Cl, favored by the polar aprotic amine solvent that stabilizes the transition state."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(Br)cc1)O[S+](C)[CH2-]","rationale": "The basic environment provided by the tertiary amine abstracts the acidic α-proton adjacent to the positively charged sulfur, driven by stabilization of the resulting carbanion through the adjacent sulfonium group."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Br)cc1)=O","rationale": "The carbanion collapses, expelling the neutral dimethyl sulfide leaving group; this elimination is favored by the stability of the carbonyl product and the volatility of the leaving group."}],"description": "In the Kornblum oxidation, dimethyl sulfoxide acts as a nucleophile toward an alkyl halide, forming an alkoxysulfonium intermediate. Under basic conditions, deprotonation facilitates elimination of a sulfenic species, yielding the carbonyl product via a mild, non-aqueous oxidation pathway."}
{"reaction_id": "NR-108_1-C(F)(F)F_2-SC_3-c1ccc(OC)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(OC)cc1)CCCC(C(F)(F)F)SC"],"products_smiles": ["N(c1ccc(OC)cc1)CCCC(C(F)(F)F)(SC)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(OC)cc1)CCCC(C(F)(F)F)SC","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(OC)cc1)CCC[C](C(F)(F)F)SC","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(OC)cc1)CCCC(C(F)(F)F)(SC)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
